US09108936B2
To a stirred solution of N-[(3R)-3-hydroxy-4,4-dimethyl-pentyl]-carbamic acid tert-butyl ester (1.2 g, 5.19 mmol) in dioxane (5 ml) is added 4N hydrochloric acid in dioxane (12 ml) at 0° C. and the mixture is stirred for 1 h at room temperature. The reaction mixture is concentrated in vacuo and solid is triturated with pentane yielding (3R)-1-amino-4,4-dimethyl-pentan-3-ol (0.5 g, 2.98 mmol, 57%).

reactant | N-[(3R)-3-hydroxy-4,4-dimethyl-pentyl]-carbamic acid tert-butyl ester | 5.19 mmol, 1.2 g | C(C)(C)(C)OC(NCC[C@H](C(C)(C)C)O)=O | C12H25NO3
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | (3R)-1-amino-4,4-dimethyl-pentan-3-ol | 2.98 mmol, 0.5 g, 57% | NCC[C@H](C(C)(C)C)O | C7H17NO
